**************************************************
* Manufacturer:           Würth Elektronik
* Kinds:                  Radial Leaded Wire Wound Inductor
* Matchcode:              WE-TI
* Library Type:           LTspice
* Version:                rev24a
* Created/modified by:    Ella
* Date and Time:          7/12/2024
* Team:                   eiSos EDA Service  
* Contact:                libraries@we-online.com
**************************************************
* Copyright(C) 2024 Würth Elektronik eiSos GmbH & Co. KG
* All Rights Reserved.
**************************************************
* Disclaimer: While Würth Elektronik eiSos has made every reasonable effort to ensure the accuracy
* of the simulation models provided, Würth Elektronik eiSos does not guarantee the exemption of error on
* the simulation models, nor does Würth Elektronik eiSos guarantee that the simulation model is current.
* Würth Elektronik eiSos reserves the right to make any adjustments at any time without notice.
* Würth Elektronik eiSos expressly disclaims all implied warranties regarding this simulation model.
**************************************************
.subckt 1014_7447480680_68u 1 2
Rp 1 2 67428
Cp 1 2 10.793p
Rs 1 N3 0.063
L1 N3 2 63.675u
.ends 1014_7447480680_68u
*******
.subckt 1014_7447480101_100u 1 2
Rp 1 2 76931
Cp 1 2 13.692p
Rs 1 N3 0.1
L1 N3 2 91.696u
.ends 1014_7447480101_100u
*******
.subckt 1014_7447480151_150u 1 2
Rp 1 2 80629
Cp 1 2 14.488p
Rs 1 N3 0.16
L1 N3 2 139.154u
.ends 1014_7447480151_150u
*******
.subckt 1014_7447480221_220u 1 2
Rp 1 2 79701
Cp 1 2 19.274p
Rs 1 N3 0.23
L1 N3 2 220.487u
.ends 1014_7447480221_220u
*******
.subckt 1014_7447480331_330u 1 2
Rp 1 2 104018
Cp 1 2 15.594p
Rs 1 N3 0.3
L1 N3 2 298.102u
.ends 1014_7447480331_330u
*******
.subckt 1014_7447480471_470u 1 2
Rp 1 2 101355
Cp 1 2 16.484p
Rs 1 N3 0.47
L1 N3 2 444.501u
.ends 1014_7447480471_470u
*******
.subckt 1014_7447480561_560u 1 2
Rp 1 2 108960
Cp 1 2 17.698p
Rs 1 N3 0.55
L1 N3 2 560.66u
.ends 1014_7447480561_560u
*******
.subckt 1014_7447480681_680u 1 2
Rp 1 2 133937
Cp 1 2 17.441p
Rs 1 N3 0.71
L1 N3 2 637.568u
.ends 1014_7447480681_680u
*******
.subckt 1014_7447480102_1000u 1 2
Rp 1 2 145495
Cp 1 2 19.203p
Rs 1 N3 1
L1 N3 2 950.838u
.ends 1014_7447480102_1000u
*******
.subckt 1014_7447480122_1200u 1 2
Rp 1 2 110371
Cp 1 2 21.451p
Rs 1 N3 1.1
L1 N3 2 1141u
.ends 1014_7447480122_1200u
*******
.subckt 1014_7447480152_1500u 1 2
Rp 1 2 196045
Cp 1 2 18.538p
Rs 1 N3 1.5
L1 N3 2 1386u
.ends 1014_7447480152_1500u
*******
.subckt 1014_7447480222_2200u 1 2
Rp 1 2 189543
Cp 1 2 18.03p
Rs 1 N3 2.1
L1 N3 2 2107u
.ends 1014_7447480222_2200u
*******
.subckt 1014_7447480332_3300u 1 2
Rp 1 2 268269
Cp 1 2 16.367p
Rs 1 N3 3.2
L1 N3 2 3140u
.ends 1014_7447480332_3300u
*******
.subckt 1014_7447480562_5600u 1 2
Rp 1 2 283944
Cp 1 2 16.143p
Rs 1 N3 4.9
L1 N3 2 5363u
.ends 1014_7447480562_5600u
*******
.subckt 1014_7447480822_8200u 1 2
Rp 1 2 368114
Cp 1 2 18.84p
Rs 1 N3 7.5
L1 N3 2 7059u
.ends 1014_7447480822_8200u
*******
.subckt 1016_7447221101_100u 1 2
Rp 1 2 43275
Cp 1 2 15.633p
Rs 1 N3 0.085
L1 N3 2 100.028u
.ends 1016_7447221101_100u
*******
.subckt 1016_7447221221_220u 1 2
Rp 1 2 99549
Cp 1 2 17.906p
Rs 1 N3 0.19
L1 N3 2 220.681u
.ends 1016_7447221221_220u
*******
.subckt 1016_7447221331_330u 1 2
Rp 1 2 68995
Cp 1 2 20.486p
Rs 1 N3 0.28
L1 N3 2 299.5u
.ends 1016_7447221331_330u
*******
.subckt 1016_7447221471_470u 1 2
Rp 1 2 79512
Cp 1 2 19.033p
Rs 1 N3 0.4
L1 N3 2 470.37u
.ends 1016_7447221471_470u
*******
.subckt 1016_7447221681_680u 1 2
Rp 1 2 130742
Cp 1 2 20.988p
Rs 1 N3 0.58
L1 N3 2 680.023u
.ends 1016_7447221681_680u
*******
.subckt 1016_7447221102_1000u 1 2
Rp 1 2 977410
Cp 1 2 25.388p
Rs 1 N3 0.85
L1 N3 2 1000.552u
.ends 1016_7447221102_1000u
*******
.subckt 1016_7447221222_2200u 1 2
Rp 1 2 169343
Cp 1 2 26.245p
Rs 1 N3 1.85
L1 N3 2 2208u
.ends 1016_7447221222_2200u
*******
.subckt 1016_7447221332_3300u 1 2
Rp 1 2 197655
Cp 1 2 28.175p
Rs 1 N3 2.8
L1 N3 2 3302u
.ends 1016_7447221332_3300u
*******
.subckt 1016_7447221472_4700u 1 2
Rp 1 2 232577
Cp 1 2 31.464p
Rs 1 N3 4
L1 N3 2 4704u
.ends 1016_7447221472_4700u
*******
.subckt 1016_7447221682_6800u 1 2
Rp 1 2 379683
Cp 1 2 31.073p
Rs 1 N3 5.7
L1 N3 2 6807u
.ends 1016_7447221682_6800u
*******
.subckt 1016_7447221103_10000u 1 2
Rp 1 2 450613
Cp 1 2 37.622p
Rs 1 N3 8.4
L1 N3 2 10002u
.ends 1016_7447221103_10000u
*******
.subckt 1018_7447231101_100u 1 2
Rp 1 2 47900
Cp 1 2 19.776p
Rs 1 N3 0.075
L1 N3 2 100.089u
.ends 1018_7447231101_100u
*******
.subckt 1018_7447231221_220u 1 2
Rp 1 2 76162
Cp 1 2 17.941p
Rs 1 N3 0.17
L1 N3 2 220.454u
.ends 1018_7447231221_220u
*******
.subckt 1018_7447231331_330u 1 2
Rp 1 2 72327
Cp 1 2 18.906p
Rs 1 N3 0.25
L1 N3 2 330.521u
.ends 1018_7447231331_330u
*******
.subckt 1018_7447231471_470u 1 2
Rp 1 2 114052
Cp 1 2 21.553p
Rs 1 N3 0.36
L1 N3 2 470.297u
.ends 1018_7447231471_470u
*******
.subckt 1018_7447231681_680u 1 2
Rp 1 2 89398
Cp 1 2 20.856p
Rs 1 N3 0.51
L1 N3 2 632.501u
.ends 1018_7447231681_680u
*******
.subckt 1018_7447231102_1000u 1 2
Rp 1 2 92395
Cp 1 2 20.634p
Rs 1 N3 0.75
L1 N3 2 931.685u
.ends 1018_7447231102_1000u
*******
.subckt 1018_7447231222_2200u 1 2
Rp 1 2 117039
Cp 1 2 21.225p
Rs 1 N3 1.65
L1 N3 2 2200u
.ends 1018_7447231222_2200u
*******
.subckt 1018_7447231332_3300u 1 2
Rp 1 2 158302
Cp 1 2 22.013p
Rs 1 N3 2.45
L1 N3 2 3304u
.ends 1018_7447231332_3300u
*******
.subckt 1018_7447231472_4700u 1 2
Rp 1 2 216963
Cp 1 2 22.287p
Rs 1 N3 3.5
L1 N3 2 4700u
.ends 1018_7447231472_4700u
*******
.subckt 1018_7447231682_6800u 1 2
Rp 1 2 276315
Cp 1 2 23.745p
Rs 1 N3 5
L1 N3 2 6394u
.ends 1018_7447231682_6800u
*******
.subckt 1018_7447231103_10000u 1 2
Rp 1 2 295844
Cp 1 2 23.584p
Rs 1 N3 7.4
L1 N3 2 10004u
.ends 1018_7447231103_10000u
*******
.subckt 5075_7447462010_1u 1 2
Rp 1 2 3682
Cp 1 2 1.361p
Rs 1 N3 0.006
L1 N3 2 0.863502u
.ends 5075_7447462010_1u
*******
.subckt 5075_7447462022_2.2u 1 2
Rp 1 2 5000
Cp 1 2 3p
Rs 1 N3 0.01
L1 N3 2 2u
.ends 5075_7447462022_2.2u
*******
.subckt 5075_7447462033_3.3u 1 2
Rp 1 2 6948
Cp 1 2 3.716p
Rs 1 N3 0.016
L1 N3 2 2.939u
.ends 5075_7447462033_3.3u
*******
.subckt 5075_7447462047_4.7u 1 2
Rp 1 2 9214
Cp 1 2 4.062p
Rs 1 N3 0.019
L1 N3 2 3.758u
.ends 5075_7447462047_4.7u
*******
.subckt 5075_7447462068_6.8u 1 2
Rp 1 2 13646
Cp 1 2 3.488p
Rs 1 N3 0.027
L1 N3 2 6.598u
.ends 5075_7447462068_6.8u
*******
.subckt 5075_7447462100_10u 1 2
Rp 1 2 14976
Cp 1 2 3.675p
Rs 1 N3 0.055
L1 N3 2 9.172u
.ends 5075_7447462100_10u
*******
.subckt 5075_7447462220_22u 1 2
Rp 1 2 26000
Cp 1 2 5p
Rs 1 N3 0.1
L1 N3 2 22u
.ends 5075_7447462220_22u
*******
.subckt 5075_7447462330_33u 1 2
Rp 1 2 35715
Cp 1 2 4.121p
Rs 1 N3 0.153
L1 N3 2 32.489u
.ends 5075_7447462330_33u
*******
.subckt 5075_7447462470_47u 1 2
Rp 1 2 58965
Cp 1 2 5.033p
Rs 1 N3 0.22
L1 N3 2 43.03u
.ends 5075_7447462470_47u
*******
.subckt 5075_7447462680_68u 1 2
Rp 1 2 51831
Cp 1 2 6.298p
Rs 1 N3 0.34
L1 N3 2 68.127u
.ends 5075_7447462680_68u
*******
.subckt 5075_7447462820_82u 1 2
Rp 1 2 58207
Cp 1 2 5.922p
Rs 1 N3 0.39
L1 N3 2 81.435u
.ends 5075_7447462820_82u
*******
.subckt 5075_7447462101_100u 1 2
Rp 1 2 78000
Cp 1 2 5p
Rs 1 N3 0.45
L1 N3 2 98u
.ends 5075_7447462101_100u
*******
.subckt 5075_7447462221_220u 1 2
Rp 1 2 115000
Cp 1 2 5p
Rs 1 N3 0.96
L1 N3 2 216u
.ends 5075_7447462221_220u
*******
.subckt 5075_7447462471_470u 1 2
Rp 1 2 137567
Cp 1 2 4.761p
Rs 1 N3 1.58
L1 N3 2 440.086u
.ends 5075_7447462471_470u
*******
.subckt 5075_7447462681_680u 1 2
Rp 1 2 191934
Cp 1 2 6.524p
Rs 1 N3 3.1
L1 N3 2 679.691u
.ends 5075_7447462681_680u
*******
.subckt 5075_7447462102_1000u 1 2
Rp 1 2 212801
Cp 1 2 4.954p
Rs 1 N3 4.38
L1 N3 2 963.866u
.ends 5075_7447462102_1000u
*******
.subckt 5075_7447462152_1500u 1 2
Rp 1 2 236296
Cp 1 2 5.209p
Rs 1 N3 6.54
L1 N3 2 1434u
.ends 5075_7447462152_1500u
*******
.subckt 5075_7447462222_2200u 1 2
Rp 1 2 438288
Cp 1 2 6.743p
Rs 1 N3 9.8
L1 N3 2 2383u
.ends 5075_7447462222_2200u
*******
.subckt 6065_744779068_6.8u 1 2
Rp 1 2 15542
Cp 1 2 2.776p
Rs 1 N3 0.027
L1 N3 2 5.883u
.ends 6065_744779068_6.8u
*******
.subckt 6065_744779100_10u 1 2
Rp 1 2 17261
Cp 1 2 3.538p
Rs 1 N3 0.0386
L1 N3 2 9.668u
.ends 6065_744779100_10u
*******
.subckt 6065_7447790470_47u 1 2
Rp 1 2 42725
Cp 1 2 4.518p
Rs 1 N3 0.135
L1 N3 2 47.483u
.ends 6065_7447790470_47u
*******
.subckt 6065_744779168_68u 1 2
Rp 1 2 63779
Cp 1 2 4.048p
Rs 1 N3 0.22
L1 N3 2 65.368u
.ends 6065_744779168_68u
*******
.subckt 6065_7447790221_220u 1 2
Rp 1 2 108306
Cp 1 2 4.078p
Rs 1 N3 0.64
L1 N3 2 203.787u
.ends 6065_7447790221_220u
*******
.subckt 8012_7447452100_10u 1 2
Rp 1 2 13147
Cp 1 2 6.647p
Rs 1 N3 0.015
L1 N3 2 8.999u
.ends 8012_7447452100_10u
*******
.subckt 8012_7447452101_100u 1 2
Rp 1 2 42174
Cp 1 2 12.82p
Rs 1 N3 0.13
L1 N3 2 95.138u
.ends 8012_7447452101_100u
*******
.subckt 8012_7447452221_220u 1 2
Rp 1 2 109955
Cp 1 2 10.886p
Rs 1 N3 0.27
L1 N3 2 200.427u
.ends 8012_7447452221_220u
*******
.subckt 8012_7447452331_330u 1 2
Rp 1 2 89842
Cp 1 2 11.45p
Rs 1 N3 0.42
L1 N3 2 307.579u
.ends 8012_7447452331_330u
*******
.subckt 8012_7447452391_390u 1 2
Rp 1 2 121784
Cp 1 2 11.696p
Rs 1 N3 0.47
L1 N3 2 369.449u
.ends 8012_7447452391_390u
*******
.subckt 8012_7447452561_560u 1 2
Rp 1 2 89765
Cp 1 2 13.137p
Rs 1 N3 0.69
L1 N3 2 522.757u
.ends 8012_7447452561_560u
*******
.subckt 8012_7447452821_820u 1 2
Rp 1 2 103056
Cp 1 2 14.436p
Rs 1 N3 1
L1 N3 2 778.094u
.ends 8012_7447452821_820u
*******
.subckt 8012_7447452102_1000u 1 2
Rp 1 2 123118
Cp 1 2 12.979p
Rs 1 N3 1.27
L1 N3 2 982.257u
.ends 8012_7447452102_1000u
*******
.subckt 8012_7447452152_1500u 1 2
Rp 1 2 171618
Cp 1 2 10.706p
Rs 1 N3 1.75
L1 N3 2 1503u
.ends 8012_7447452152_1500u
*******
.subckt 8012_7447452222_2200u 1 2
Rp 1 2 175227
Cp 1 2 11.611p
Rs 1 N3 2.4
L1 N3 2 2209u
.ends 8012_7447452222_2200u
*******
.subckt 8012_7447452392_3900u 1 2
Rp 1 2 293825
Cp 1 2 11.033p
Rs 1 N3 4.55
L1 N3 2 3721u
.ends 8012_7447452392_3900u
*******
.subckt 8012_7447452472_4700u 1 2
Rp 1 2 296876
Cp 1 2 12.806p
Rs 1 N3 6.1
L1 N3 2 4554u
.ends 8012_7447452472_4700u
*******
.subckt 8012_7447452103_10000u 1 2
Rp 1 2 632095
Cp 1 2 12.018p
Rs 1 N3 13
L1 N3 2 9787u
.ends 8012_7447452103_10000u
*******
.subckt 8012_7447452683_68000u 1 2
Rp 1 2 971907
Cp 1 2 15.435p
Rs 1 N3 90
L1 N3 2 65082u
.ends 8012_7447452683_68000u
*******
.subckt 8012_7447450103_10000u 1 2
Rp 1 2 68907
Cp 1 2 10.021p
Rs 1 N3 0.25
L1 N3 2 94.374u
.ends 8012_7447450103_10000u
*******
.subckt 8012B_744743101_100u 1 2
Rp 1 2 87801
Cp 1 2 9.885p
Rs 1 N3 0.47
L1 N3 2 207.129u
.ends 8012B_744743101_100u
*******
.subckt 8012B_744743221_220u 1 2
Rp 1 2 97764
Cp 1 2 9.743p
Rs 1 N3 0.97
L1 N3 2 321.543u
.ends 8012B_744743221_220u
*******
.subckt 8012B_744743331_330u 1 2
Rp 1 2 101618
Cp 1 2 10.309p
Rs 1 N3 1.13
L1 N3 2 454.539u
.ends 8012B_744743331_330u
*******
.subckt 8012B_744743471_470u 1 2
Rp 1 2 170152
Cp 1 2 10.376p
Rs 1 N3 2.24
L1 N3 2 972.392u
.ends 8012B_744743471_470u
*******
.subckt 8012B_744743102_1000u 1 2
Rp 1 2 73655
Cp 1 2 2.933p
Rs 1 N3 0.42
L1 N3 2 95.304u
.ends 8012B_744743102_1000u
*******
.subckt 8055_744741101_100u 1 2
Rp 1 2 131905
Cp 1 2 3.276p
Rs 1 N3 0.97
L1 N3 2 216.141u
.ends 8055_744741101_100u
*******
.subckt 8055_744741221_220u 1 2
Rp 1 2 110026
Cp 1 2 3.053p
Rs 1 N3 1.25
L1 N3 2 311.054u
.ends 8055_744741221_220u
*******
.subckt 8055_7447412331_330u 1 2
Rp 1 2 202353
Cp 1 2 2.934p
Rs 1 N3 2.12
L1 N3 2 459.889u
.ends 8055_7447412331_330u
*******
.subckt 8055_744741471_470u 1 2
Rp 1 2 147114
Cp 1 2 3.374p
Rs 1 N3 2.62
L1 N3 2 689.57u
.ends 8055_744741471_470u
*******
.subckt 8055_7447412681_680u 1 2
Rp 1 2 240781
Cp 1 2 3.44p
Rs 1 N3 4.49
L1 N3 2 977.602u
.ends 8055_7447412681_680u
*******
.subckt 8055_744741102_1000u 1 2
Rp 1 2 352298
Cp 1 2 3.058p
Rs 1 N3 9.13
L1 N3 2 2168u
.ends 8055_744741102_1000u
*******
.subckt 8055_744741222_2200u 1 2
Rp 1 2 882644
Cp 1 2 3.036p
Rs 1 N3 21.18
L1 N3 2 4772u
.ends 8055_744741222_2200u
*******
.subckt 8055_744741472_4700u 1 2
Rp 1 2 3566
Cp 1 2 2.094p
Rs 1 N3 0.007
L1 N3 2 1.151u
.ends 8055_744741472_4700u
*******
.subckt 8075_744732015_1.5u 1 2
Rp 1 2 2061
Cp 1 2 3.805p
Rs 1 N3 0.027
L1 N3 2 8.935u
.ends 8075_744732015_1.5u
*******
.subckt 8075_744732100_10u 1 2
Rp 1 2 44568
Cp 1 2 4.849p
Rs 1 N3 0.114
L1 N3 2 41.688u
.ends 8075_744732100_10u
*******
.subckt 8075_744732470_47u 1 2
Rp 1 2 98832
Cp 1 2 5.332p
Rs 1 N3 0.34
L1 N3 2 111.68u
.ends 8075_744732470_47u
*******
.subckt 8075_744732121_120u 1 2
Rp 1 2 116269
Cp 1 2 4.604p
Rs 1 N3 0.59
L1 N3 2 236.287u
.ends 8075_744732121_120u
*******
.subckt 8075_744732221_220u 1 2
Rp 1 2 110928
Cp 1 2 5.574p
Rs 1 N3 0.94
L1 N3 2 301.337u
.ends 8075_744732221_220u
*******
.subckt 8075_744732331_330u 1 2
Rp 1 2 130615
Cp 1 2 6.577p
Rs 1 N3 1.44
L1 N3 2 470.399u
.ends 8075_744732331_330u
*******
.subckt 8075_744732471_470u 1 2
Rp 1 2 151872
Cp 1 2 6.483p
Rs 1 N3 1.79
L1 N3 2 680.682u
.ends 8075_744732471_470u
*******
.subckt 8075_744732681_680u 1 2
Rp 1 2 202578
Cp 1 2 5.343p
Rs 1 N3 2.8
L1 N3 2 950.63u
.ends 8075_744732681_680u
*******
.subckt 8075_744732102_1000u 1 2
Rp 1 2 232783
Cp 1 2 5.584p
Rs 1 N3 4.25
L1 N3 2 1380u
.ends 8075_744732102_1000u
*******
.subckt 8075_744732152_1500u 1 2
Rp 1 2 395209
Cp 1 2 5.631p
Rs 1 N3 9.5
L1 N3 2 3699u
.ends 8075_744732152_1500u
*******
.subckt 8075_744730392_3900u 1 2
Rp 1 2 342358
Cp 1 2 5.511p
Rs 1 N3 10.98
L1 N3 2 4637u
.ends 8075_744730392_3900u
*******
.subckt 8075_7447721047_4700u 1 2
Rp 1 2 983751
Cp 1 2 5.003p
Rs 1 N3 50
L1 N3 2 14025u
.ends 8075_7447721047_4700u
*******
.subckt 8075_744732153_15000u 1 2
Rp 1 2 3241
Cp 1 2 0.873729p
Rs 1 N3 0.009
L1 N3 2 0.773822u
.ends 8075_744732153_15000u
*******
.subckt 8095_7447720010_1u 1 2
Rp 1 2 6702
Cp 1 2 0.855743p
Rs 1 N3 0.013
L1 N3 2 1.946u
.ends 8095_7447720010_1u
*******
.subckt 8095_7447720022_2.2u 1 2
Rp 1 2 10043
Cp 1 2 0.882163p
Rs 1 N3 0.016
L1 N3 2 3.01u
.ends 8095_7447720022_2.2u
*******
.subckt 8095_7447720033_3.3u 1 2
Rp 1 2 13136
Cp 1 2 1.153p
Rs 1 N3 0.019
L1 N3 2 4.406u
.ends 8095_7447720033_3.3u
*******
.subckt 8095_7447720047_4.7u 1 2
Rp 1 2 10285
Cp 1 2 2.68p
Rs 1 N3 0.024
L1 N3 2 6.988u
.ends 8095_7447720047_4.7u
*******
.subckt 8095_7447720068_6.8u 1 2
Rp 1 2 11820
Cp 1 2 7.309p
Rs 1 N3 0.03
L1 N3 2 9.913u
.ends 8095_7447720068_6.8u
*******
.subckt 8095_7447720100_10u 1 2
Rp 1 2 18894
Cp 1 2 6.393p
Rs 1 N3 0.038
L1 N3 2 15.024u
.ends 8095_7447720100_10u
*******
.subckt 8095_7447720150_15u 1 2
Rp 1 2 19905
Cp 1 2 5.974p
Rs 1 N3 0.042
L1 N3 2 18.111u
.ends 8095_7447720150_15u
*******
.subckt 8095_7447720180_18u 1 2
Rp 1 2 24975
Cp 1 2 5.532p
Rs 1 N3 0.044
L1 N3 2 19.302u
.ends 8095_7447720180_18u
*******
.subckt 8095_7447720200_20u 1 2
Rp 1 2 19554
Cp 1 2 7.128p
Rs 1 N3 0.046
L1 N3 2 20.467u
.ends 8095_7447720200_20u
*******
.subckt 8095_7447720220_22u 1 2
Rp 1 2 28146
Cp 1 2 6.327p
Rs 1 N3 0.059
L1 N3 2 30.792u
.ends 8095_7447720220_22u
*******
.subckt 8095_7447720330_33u 1 2
Rp 1 2 31820
Cp 1 2 6.363p
Rs 1 N3 0.07
L1 N3 2 37.353u
.ends 8095_7447720330_33u
*******
.subckt 8095_7447720390_39u 1 2
Rp 1 2 43543
Cp 1 2 6.501p
Rs 1 N3 0.089
L1 N3 2 46.318u
.ends 8095_7447720390_39u
*******
.subckt 8095_7447720470_47u 1 2
Rp 1 2 41474
Cp 1 2 7.011p
Rs 1 N3 0.1
L1 N3 2 52.525u
.ends 8095_7447720470_47u
*******
.subckt 8095_7447720560_56u 1 2
Rp 1 2 44794
Cp 1 2 8.66p
Rs 1 N3 0.124
L1 N3 2 64.373u
.ends 8095_7447720560_56u
*******
.subckt 8095_7447720680_68u 1 2
Rp 1 2 52955
Cp 1 2 8.192p
Rs 1 N3 0.154
L1 N3 2 80.317u
.ends 8095_7447720680_68u
*******
.subckt 8095_7447720820_82u 1 2
Rp 1 2 78404
Cp 1 2 6.957p
Rs 1 N3 0.198
L1 N3 2 97.702u
.ends 8095_7447720820_82u
*******
.subckt 8095_7447720101_100u 1 2
Rp 1 2 69934
Cp 1 2 7.531p
Rs 1 N3 0.223
L1 N3 2 113.151u
.ends 8095_7447720101_100u
*******
.subckt 8095_7447720121_120u 1 2
Rp 1 2 85014
Cp 1 2 8.411p
Rs 1 N3 0.283
L1 N3 2 147.802u
.ends 8095_7447720121_120u
*******
.subckt 8095_7447720151_150u 1 2
Rp 1 2 80820
Cp 1 2 9.507p
Rs 1 N3 0.35
L1 N3 2 184.96u
.ends 8095_7447720151_150u
*******
.subckt 8095_7447720181_180u 1 2
Rp 1 2 96670
Cp 1 2 8.194p
Rs 1 N3 0.389
L1 N3 2 211.021u
.ends 8095_7447720181_180u
*******
.subckt 8095_7447720221_220u 1 2
Rp 1 2 128923
Cp 1 2 7.838p
Rs 1 N3 0.587
L1 N3 2 322.954u
.ends 8095_7447720221_220u
*******
.subckt 8095_7447720331_330u 1 2
Rp 1 2 129153
Cp 1 2 9.486p
Rs 1 N3 0.883
L1 N3 2 462.051u
.ends 8095_7447720331_330u
*******
.subckt 8095_7447720471_470u 1 2
Rp 1 2 161978
Cp 1 2 8.314p
Rs 1 N3 1.02
L1 N3 2 551.143u
.ends 8095_7447720471_470u
*******
.subckt 8095_7447720561_560u 1 2
Rp 1 2 177759
Cp 1 2 8.457p
Rs 1 N3 1.29
L1 N3 2 664.793u
.ends 8095_7447720561_560u
*******
.subckt 8095_7447720681_680u 1 2
Rp 1 2 167440
Cp 1 2 7.888p
Rs 1 N3 1.41
L1 N3 2 775.226u
.ends 8095_7447720681_680u
*******
.subckt 8095_7447720821_820u 1 2
Rp 1 2 205905
Cp 1 2 8.509p
Rs 1 N3 1.68
L1 N3 2 862.244u
.ends 8095_7447720821_820u
*******
.subckt 8095_7447720901_900u 1 2
Rp 1 2 206222
Cp 1 2 8.97p
Rs 1 N3 1.89
L1 N3 2 1001u
.ends 8095_7447720901_900u
*******
.subckt 8095_7447720102_1000u 1 2
Rp 1 2 195247
Cp 1 2 8.535p
Rs 1 N3 2.14
L1 N3 2 1182u
.ends 8095_7447720102_1000u
*******
.subckt 8095_7447720122_1200u 1 2
Rp 1 2 207270
Cp 1 2 8.972p
Rs 1 N3 2.67
L1 N3 2 1460u
.ends 8095_7447720122_1200u
*******
.subckt 8095_7447720152_1500u 1 2
Rp 1 2 293012
Cp 1 2 8.157p
Rs 1 N3 3.68
L1 N3 2 1757u
.ends 8095_7447720152_1500u
*******
.subckt 8095_7447720182_1800u 1 2
Rp 1 2 288136
Cp 1 2 8.535p
Rs 1 N3 4.16
L1 N3 2 2152u
.ends 8095_7447720182_1800u
*******
.subckt 8095_7447720222_2200u 1 2
Rp 1 2 303912
Cp 1 2 8.123p
Rs 1 N3 6.53
L1 N3 2 3237u
.ends 8095_7447720222_2200u
*******
.subckt 8095_7447720332_3300u 1 2
Rp 1 2 472730
Cp 1 2 8.446p
Rs 1 N3 7.34
L1 N3 2 3847u
.ends 8095_7447720332_3300u
*******
.subckt 8095_7447720392_3900u 1 2
Rp 1 2 476334
Cp 1 2 7.879p
Rs 1 N3 8.33
L1 N3 2 4636u
.ends 8095_7447720392_3900u
*******
.subckt 8095_7447720472_4700u 1 2
Rp 1 2 472208
Cp 1 2 7.297p
Rs 1 N3 13.3
L1 N3 2 6767u
.ends 8095_7447720472_4700u
*******
.subckt 8095_7447720702_7000u 1 2
Rp 1 2 567589
Cp 1 2 9.307p
Rs 1 N3 19.52
L1 N3 2 9858u
.ends 8095_7447720702_7000u
*******
.subckt 8095_7447720103_10000u 1 2
Rp 1 2 958933
Cp 1 2 7.859p
Rs 1 N3 43.23
L1 N3 2 21899u
.ends 8095_7447720103_10000u
*******
.subckt 8095_7447720223_22000u 1 2
Rp 1 2 1740000
Cp 1 2 10.671p
Rs 1 N3 69.7
L1 N3 2 35500u
.ends 8095_7447720223_22000u
*******
.subckt 8095_7447722363_36000u 1 2
Rp 1 2 1630000
Cp 1 2 10.685p
Rs 1 N3 90.8
L1 N3 2 47493u
.ends 8095_7447722363_36000u
*******
